US08383630B2
Preparation of 6-chloro-pyrazolo[3,4-b]pyridine:
To a solution of 2,6-dichloro-3-formylpyridine (0.89 mmol, 1 eq.) in 3 ml THF was added hydrazine (1.06 mmol, 1.2 eq.) at rt. The resultant solution was heated at 120° C. in sealed tube for overnight. The solvent was removed in vacuo, and the residue was dry loaded on silica gel column. Purification by silica gel chromatography provide 29.5 mg final product: HPLC retention time=2.17 minutes (Agilent Zorbax SB-C18, 2.1×50 mm, 5μ, 35° C.) using 1 ml/min flow rate, a 2.5 minute gradient of 0% to 100% B with a 1.1 minute wash at 100% B (A=0.1% formic acid/5% acetonitrile/94.9% water, B=0.1% formic acid/5% water/94.9% acetonitrile); MS (ES) M+H expect=154.0. found=154.0.

reactant | 2,6-dichloro-3-formylpyridine | 0.89 mmol, 1 eq. | ClC1=NC(=CC=C1C=O)Cl | C6H3Cl2NO
reactant | hydrazine | 1.06 mmol, 1.2 eq. | NN | H4N2
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 6-chloro-pyrazolo[3,4-b]pyridine | 29.5 mg | ClC1=CC=C2C(=N1)NN=C2 | C6H4ClN3
